US07312241B2
Grignard reagent was prepared in an oven-dried three necked flask outfitted with a reflux condenser, dropping funnel, and magnetic stirrer. Approximately 3 mL of a solution of 3,4-bromoveratrole (3.5 g, 15.9 mmol) in THF (10 mL) was added to a mixture of magnesium turnings (0.4 g, 15.9 mmol) in THF (5 mL) with a small piece of iodine. As soon as the solution became colorless (heating sometimes necessary), the remaining 3,4-bromoveratrole solution was added dropwise to the solution under mild reflux. The resulting mixture was refluxed for 3 h then cooled to room temperature for 30 min. The (3,4-dimethoxyphenyl)magnesium bromide was then added slowly to a stirred solution of 4-methoxy-3-nitro-benzaldehyde (2.4 g, 13.3 mmol) in THF (10 mL) at 0° C. After complete addition, the solution was allowed to stir at room temperature for 1 h. The mixture was cooled to 0° C. and quenched with saturated NH4Cl solution (40 mL). The aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layers were washed with water (2×30 mL), brine (30 mL) and dried (MgSO4). Solvent was removed and residue was purified by flash chromatography (silica gel, CH2Cl2:EtOAc 9:1) to give (4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanol as an oil (2.6 g, 63%): 1H NMR (CDCl3) δ 7.89 (d, J=2 Hz, 1H), 7.54-7.49 (dd, J=2, 8 Hz, 1H), 7.05 (d, J=8 Hz, 1H), 6.88-6.81 (m, 3H), 5.78 (d, J=3 Hz, 1H), 3.94 (s, 3H), 3.87 (s, 3H), 3.85 (s, 3H), 2.38 (d, J=3 Hz, 1H).

reactant | magnesium | 15.9 mmol, 0.4 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | (3,4-dimethoxyphenyl)magnesium bromide | COC=1C=C(C=CC1OC)[Mg]Br
reactant | 4-methoxy-3-nitro-benzaldehyde | 13.3 mmol, 2.4 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4-methoxy-3-nitro-phenyl)-(3,4-dimethoxy-phenyl)-methanol | 2.6 g, 63% | COC1=C(C=C(C=C1)C(O)C1=CC(=C(C=C1)OC)OC)[N+](=O)[O-] | C16H17NO6
